US06596461B1
1) Preparation of 2-(2-nitro-2-methyl-propylamino)ethanol
607.8 g (6.55 mol) of 2-nitropropane and 100 ml of water are added to a solution of 450 g (7.40 mol) of ethanolamine in 1000 ml of isopropanol. The solution is stirred at room temperature and 225.4 g (7.5 mol) of paraformaldehyde and 7 ml of 20% aqueous solution of sodium hydroxide (% w/v) are added under stirring and maintaining the temperature at room temperature for 16 hours. The mixture is then heated to 50° C. with nitrogen being bubbled into the mixture to eliminate the formaldehyde in excess. The mixture obtained is used for the following reaction without any isolation of the product.

reactant | 2-nitropropane | 6.55 mol, 607.8 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | ethanolamine | 7.40 mol, 450 g | C(O)CN | C2H7NO
reactant | paraformaldehyde | 7.5 mol, 225.4 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 1000 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
product | 2-(2-nitro-2-methyl-propylamino)ethanol | [N+](=O)([O-])C(CNCCO)(C)C | C6H14N2O3
